US07745020B2
Synthesis of 3.7-diphenyl-3H-imidazo[4,5-b]pyridine (DPhlPy):
0.70 mol of N2,4-diphenylpyridine-2,3-diamine and 2.56 mol of ethoxymethylene malononitrile were added in 10 ml of isopropanol, and refluxed for 6 hours. The solution was removed and was purified by using column chromatography to thereby produce a solid crystalline product at a yield of 75%.

reactant | N2,4-diphenylpyridine-2,3-diamine | 0.70 mol | C1(=CC=CC=C1)NC1=NC=CC(=C1N)C1=CC=CC=C1 | C17H15N3
reactant | ethoxymethylene malononitrile | 2.56 mol | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 3.7-diphenyl-3H-imidazo[4,5-b]pyridine | yield of 75% | C1(=CC=CC=C1)N1C=NC=2C1=NC=CC2C2=CC=CC=C2 | C18H13N3
